US06844345B2
a) (R)-8-fluoro-4,6-dimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole hydrochloride
The tide compound (ISP-MS: m/e 219.3 ([M+H]+)) was produced in accordance with the general method of example 1a), using tert-butyl-methyl ether instead of tetrahydrofuran as solvent, from (R)-8-fluoro-4,6-dimethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one. The product (20 mg) was dissolved in dichloromethane and treated with a solution of HCl in diethyl ether to precipitate the hydrochloride salt Yield: 18 mg.

reactant | tert-butyl-methyl ether | C(C)(C)(C)OC | C5H12O
reactant | (R)-8-fluoro-4,6-dimethyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | FC1=CC=2C=C3N(C2C(=C1)C)[C@@H](CNC3=O)C | C13H13FN2O
reactant | HCl | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)-8-fluoro-4,6-dimethyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole hydrochloride | Cl.FC1=CC=2C=C3N(C2C(=C1)C)[C@@H](CNC3)C | InChI=1S/C13H15FN2.ClH/c1-8-3-11(14)4-10-5-12-7-15-6-9(2)16(12)13(8)10;/h3-5,9,15H,6-7H2,1-2H3;1H/t9-;/m1./s1
